US04316022
A mixture of 12.0 g (0.048 mole) of 1-bromo-s-triazolo[3,4-c]benzo-as-triazine, 40 ml of N-methyl-piperazine and 80 ml of ethanol is refluxed for 2 hours. The solution is poured into water and the product is extracted mit methylene chloride. The solvent is evaporated from the extract and the residue is recrystallized from benzene. 9.7 g (70%) of 1-(N-methyl-piperazino)-s-triazolo[3,4-c]benzo-as-triazine are obtained; m.p.: 162°-163° C. This product is added to a suspension of 12 g (0.068 moles) of sodium dithionite in 100 ml of water, and reduced into the respective dihydro compound under argon atmosphere. The separated precipitate is filtered off, dried, admixed with 50 ml of propionic anhydride, and the mixture is heated at 120° to 125° C. for 2 hours. The reaction mixture is cooled and the separated product is filtered off. 12.3 g (67.0%) of the title compound are obtained; m.p.: 173°-175° C.

reactant | 1-bromo-s-triazolo[3,4-c]benzo-as-triazine | 0.048 mole, 12.0 g | BrC1=NN=C2N=NC3=C(N21)C=CC=C3 | C8H4BrN5
reactant | N-methyl-piperazine | 40 ml | CN1CCNCC1 | C5H12N2
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(N-methyl-piperazino)-s-triazolo[3,4-c]benzo-as-triazine | 9.7 g, 70% | CN1CCN(CC1)C1=NN=C2N=NC3=C(N21)C=CC=C3 | C13H15N7
